US06656971B2
[(3,5-Dichlorophenyl)amino]{[2-bromo-5-(naphthylmethoxy)phenyl]amino}methane-1-thione (Exemplary Compound 33).
A solution of 2-bromo-5-(2-naphthylmethoxy)phenylamine (100 mg, 0.3 mmol) and 3,5-dichlorophenylisothiocyanate (60 mg, 0.3 mmol) in 10 mL of dichloromethane was stirred at room temperature for 16 h. The reaction mixture was evaporated to dryness and the residue recrystallized from ethyl acetate/hexane to give 60 mg of product in (38%) yield as a white solid: mp 149-151° C. 1H NMR (400 MHz, Me2SO-d6) δ5.56 (s, 2H); 7.02 (dd, 1H, J=3.0, 8.9); 7.29 (d, 1H, J=3.0); 7.35 (t, 1H, J=1.8); 7.49-7.69 (m, 7H); 7.93-7.99 (m, 2H); 8.07-8.10 (m, 1H); 9.78 (s, 1H); 10.10 (s, 1H). Anal. Calcd for C24H17BrCl2N2OS: C, 54.16; H, 3.22; N, 5.26; S, 6.02; Cl, 13.32; Br, 15.01. Found: C, 54.17; H, 3.32; N, 5.28; S,6.10; Cl, 13.31; Br, 15.00.

reactant | 2-bromo-5-(2-naphthylmethoxy)phenylamine | 0.3 mmol, 100 mg | BrC1=C(C=C(C=C1)OCC1=CC2=CC=CC=C2C=C1)N | C17H14BrNO
reactant | 3,5-dichlorophenylisothiocyanate | 0.3 mmol, 60 mg | ClC=1C=C(C=C(C1)Cl)N=C=S | C7H3Cl2NS
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | [(3,5-Dichlorophenyl)amino]{[2-bromo-5-(naphthylmethoxy)phenyl]amino}methane-1-thione | 60 mg | ClC=1C=C(C=C(C1)Cl)NC(=S)NC1=C(C=CC(=C1)OCC1=CC=CC2=CC=CC=C12)Br | C24H17BrCl2N2OS
